US05723606
Using 400 mg of 2-phenyl-4'-[(5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonyl]benzanilide and 400 mg of 3-pyridylthioacetamide hydrochloride, the procedure of Example 5 was repeated to obtain 100 mg of 4'-[[2-(3-pyridylmethyl)-5,6-dihydro-4H-thiazolo[5,4-d][1]benzazepin-6-yl)carbonyl]-2-phenylbenzanilide hydrochloride as an amorphous solid.

reactant | 2-phenyl-4'-[(5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonyl]benzanilide | 400 mg | C1(=CC=CC=C1)C1=C(C(=O)NC2=CC=C(C=C2)C(=O)N2CCCC(C3=C2C=CC=C3)=O)C=CC=C1 | C30H24N2O3
reactant | 3-pyridylthioacetamide hydrochloride | 400 mg | Cl.N1=CC(=CC=C1)CC(=S)N
product | 4'-[[2-(3-pyridylmethyl)-5,6-dihydro-4H-thiazolo[5,4-d][1]benzazepin-6-yl)carbonyl]-2-phenylbenzanilide hydrochloride | 100 mg | Cl.N1=CC(=CC=C1)CC=1SC=2CCN(C3=C(C2N1)C=CC=C3)C(=O)C3=CC=C(NC(C1=C(C=CC=C1)C1=CC=CC=C1)=O)C=C3 | InChI=1S/C37H28N4O2S.ClH/c42-36(30-13-5-4-12-29(30)26-10-2-1-3-11-26)39-28-18-16-27(17-19-28)37(43)41-22-20-33-35(31-14-6-7-15-32(31)41)40-34(44-33)23-25-9-8-21-38-24-25;/h1-19,21,24H,20,22-23H2,(H,39,42);1H
